US04707488
A: Methyl N-(3-phenylpropyl)dithiocarbamate
3-Phenyl-1-propylamine (0.074 mol) was reacted with carbon disulfide (0.074 mol) and iodomethane (0.074 mol) substantially as described in Example 1B above to obtain 15.7 g (94%) of a yellow oil.

reactant | 3-Phenyl-1-propylamine | 0.074 mol | C1(=CC=CC=C1)CCCN | C9H13N
reactant | carbon disulfide | 0.074 mol | C(=S)=S | CS2
reactant | iodomethane | 0.074 mol | IC | CH3I
product | Methyl N-(3-phenylpropyl)dithiocarbamate | 15.7 g, 94% | C1(=CC=CC=C1)CCCNC(SC)=S | C11H15NS2
